US05047411
A mixture of 2-acetamido-3-hydroxypyridine (1.3 g), 2-amino-6-chloromethylbenzoxazolehydrochloride (1.5 g) and potassium carbonate (2.8 g) in N,N-dimethylformamide (20 ml) was stirred for 4.3 hours at 40° C. The reaction mixture was added to water and the mixture was extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated and the residue was crystallized from ethyl acetate to give 6-(2-acetamido-pyridin-3-yloxymethyl}-2-aminobenzoxazole (0.83 g).

reactant | 2-acetamido-3-hydroxypyridine | 1.3 g | C(C)(=O)NC1=NC=CC=C1O | C7H8N2O2
reactant | 2-amino-6-chloromethylbenzoxazolehydrochloride | 1.5 g | Cl.NC=1OC2=C(N1)C=CC(=C2)CCl
reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-(2-acetamido-pyridin-3-yloxymethyl}-2-aminobenzoxazole | 0.83 g | C(C)(=O)NC1=NC=CC=C1OCC1=CC2=C(N=C(O2)N)C=C1 | C15H14N4O3
